US07378409B2
A solution of tert-butyl(1R,3R,4S)-4-(2-Benzyloxycarbonylamino-acetylamino)-3-(hydroxymethyl)cyclohexyl(isopropyl)carbamate (2.2 g, 0.0046 mol), in 30 mL of MeOH was treated with 1 g of 10% Pd/C and hydrogenated overnight at 55 psi. The mixture was filtered through Celite and concentrated on a rotary evaporator to give tert-butyl(1R,3R,4S)-4-(2-aminoacetamido)-3-(hydroxymethyl)cyclohexyl-(isopropyl)carbamate as a white solid. This was used without further purification.

reactant | tert-butyl(1R,3R,4S)-4-(2-Benzyloxycarbonylamino-acetylamino)-3-(hydroxymethyl)cyclohexyl(isopropyl)carbamate | 0.0046 mol, 2.2 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)N(C(OC(C)(C)C)=O)C(C)C)CO | C25H39N3O6
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | tert-butyl(1R,3R,4S)-4-(2-aminoacetamido)-3-(hydroxymethyl)cyclohexyl-(isopropyl)carbamate | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)N(C(OC(C)(C)C)=O)C(C)C)CO | C17H33N3O4
